US05998433
b) Synthesis of N,N-dimethyl-[6-(4-heptylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.260 g (0.799 mmol) of 6-(4-heptylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 20 ml of acetic acid, 0.108 ml (1.20 mmol) of 50% aqueous dimethylamine and 0.097 ml (1.20 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 60 minutes. Additionally, 0.072 ml (0.799 mmol) of 50% aqueous dimethylamine and 0.064 ml (0.799 mmol) of 37% aqueous formaldehyde were added, followed by stirring for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous solution of sodium hydrogen carbonate, and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1 to 25/1) to yield the desired product.

reactant | 6-(4-heptylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.799 mmol, 0.260 g | C(CCCCCC)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C21H27NO2
reactant | dimethylamine | 1.20 mmol, 0.108 ml | CNC | C2H7N
reactant | formaldehyde | 1.20 mmol, 0.097 ml | C=O | CH2O
reactant | dimethylamine | 0.799 mmol, 0.072 ml | CNC | C2H7N
reactant | formaldehyde | 0.799 mmol, 0.064 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-(4-heptylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)CCCCCCC)=O)O1 | C24H34N2O2
